US04212865
Using the method of Example 12, 7-amino-2-nitro-3-phenylbenzofuran is reacted with trifluoroacetic anhydride in dichloromethane to provide 7-trifluoroacetamido-2-nitro-3-phenylbenzofuran, m.p. 194.5°-196° C.

reactant | 7-amino-2-nitro-3-phenylbenzofuran | NC1=CC=CC=2C(=C(OC21)[N+](=O)[O-])C2=CC=CC=C2 | C14H10N2O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-trifluoroacetamido-2-nitro-3-phenylbenzofuran | FC(C(=O)NC1=CC=CC=2C(=C(OC21)[N+](=O)[O-])C2=CC=CC=C2)(F)F | C16H9F3N2O4
